US04185016
49.3 mg of 2,3,5,10,11,11a-hexahydro-9-hydroxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one was suspended in 0.5 ml of 1:1 mixture of triethylamine and acetic anhydride and stirred at 0° to 5° C. for 15 minutes under a stream of nitrogen gas. Thus, 30 mg of 2,3,5,10,11,11a-hexahydro-9-acetoxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one was obtained as a colorless powdery product. Recrystallization of the resulting product from acetone-ligroin gave a colorless needle-like crystal having a melting point of 147° to 149.5° C.

reactant | 2,3,5,10,11,11a-hexahydro-9-hydroxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one | 49.3 mg | OC1=C(C=CC=2C(N3C(C(NC21)OC)CCC3)=O)C | C14H18N2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,5,10,11,11a-hexahydro-9-acetoxy-11-methoxy-8-methyl-1H-pyrrolo[2,1-C][1,4]benzodiazepin-5-one | 30 mg | C(C)(=O)OC1=C(C=CC=2C(N3C(C(NC21)OC)CCC3)=O)C | C16H20N2O4
